US09029361B2
Part E. Preparation of tert-butyl (8S,9aR)-8-[(4-nitrobenzoyl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate
tert-Butyl (8R,9aR)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate (50 mg, 0.185 mmol, 1.0 equivalent, Part D), triphenylphosphine (60.6 mg, 0.231 mmol, 1.25 equivalents), and 4-nitrobenzoic acid (46.4 mg, 0.277 mmol, 1.5 equivalents) were dissolved in tetrahydrofuran (1.0 mL), and the resulting solution was cooled to −78° C. Diisopropyl azodicarboxylate (0.043 mL, 0.222 mmol, 1.2 equivalents) was dissolved in tetrahydrofuran (0.5 mL), and the resultant solution was added to the reaction mixture. The reaction mixture was removed from the cooling bath and warmed to room temperature for 0.5 hour. After the addition of 1 drop of saturated sodium bicarbonate, the tetrahydrofuran solution was loaded directly onto 2 sequentially linked 4 g silica gel cartridges, eluted with 50-100% ethyl acetate/heptanes over 20 minutes. The titled compound co-eluted with triphenylphosphine oxide and was used without additional purification (225 mg combined material). 1H NMR (400 MHz, CDCl3) δ ppm 8.28 (d, J=8.9 Hz, 2H), 8.15 (d, J=8.9 Hz, 2H), 5.52 (t, J=4.0 Hz, 1H), 4.53-3.94 (m, 4H), 3.73 (dd, J=14.1, 4.2 Hz, 1H), 3.02 (br s, 1H), 2.78-2.59 (m, 3H), 2.55 (dt, J=13.7, 7.0 Hz, 1H), 2.03-1.91 (m, 1H), 1.47 (s, 9H); MS (ESI+) m/z 419.8 (M+H)+.

reactant | tert-Butyl (8R,9aR)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | 0.185 mmol, 50 mg, 1.0 equivalent | O[C@@H]1C[C@H]2N(C(CCN(C2)C(=O)OC(C)(C)C)=O)C1 | C13H22N2O4
reactant | triphenylphosphine | 0.231 mmol, 60.6 mg, 1.25 equivalents | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 0.277 mmol, 46.4 mg, 1.5 equivalents | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | Diisopropyl azodicarboxylate | 0.222 mmol, 0.043 mL, 1.2 equivalents | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | tert-butyl (8S,9aR)-8-[(4-nitrobenzoyl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2C[C@H]3N(C(CCN(C3)C(=O)OC(C)(C)C)=O)C2)C=C1 | C20H25N3O7
